US06753337B2
4-{[4-(2-Butynyloxy)phenyl]sulfonyl}-1-[4-(2-piperidin-1-yl-ethoxy)-benzyl]-piperidine-4-carboxylic acid ethylester was was prepared according to the general method as outlined in example 1 (step 6), starting from ethyl{[4-(2-butynyloxy)phenyl]sulfonyl}acetate (2.9 g, 10.0 mmol) and bis-(2-chloro-ethyl)-[4-(2-piperidin-1-yl-ethoxy)-benzyl]-amine dihydrochloride (4.3 g, 10 mmol), 2.8 g of product (brown oil) was isolated. Yield 48%; MS: 583 (M+H)+.

reactant | ethyl{[4-(2-butynyloxy)phenyl]sulfonyl}acetate | 10.0 mmol, 2.9 g | C(C)OC(CS(=O)(=O)C1=CC=C(C=C1)OCC#CC)=O | C14H16O5S
reactant | bis-(2-chloro-ethyl)-[4-(2-piperidin-1-yl-ethoxy)-benzyl]-amine dihydrochloride | 10 mmol, 4.3 g | Cl.Cl.ClCCN(CC1=CC=C(C=C1)OCCN1CCCCC1)CCCl
product | 4-{[4-(2-Butynyloxy)phenyl]sulfonyl}-1-[4-(2-piperidin-1-yl-ethoxy)-benzyl]-piperidine-4-carboxylic acid ethylester | Yield 48% | C(C)OC(=O)C1(CCN(CC1)CC1=CC=C(C=C1)OCCN1CCCCC1)S(=O)(=O)C1=CC=C(C=C1)OCC#CC | C32H42N2O6S
